US07704997B1
4-(3-Cyano-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
2-Chloro-nicotinonitrile (2.04 g, 14.7 mmol) was added to a mixture of piperazine-1-carboxylic acid tert-butyl ester (2.74 g, 14.7 mmol) and potassium hydrogencarbonate (1.77 g, 17.6 mmol) in N,N-dimethylformamide (45 mL). The mixture was heated at 90° C. overnight. The solvent was removed and residue was partitioned between ethyl acetate and water. The organic layer was washed with water and brine then dried over magnesium sulfate and filtered. The solvent was removed to give the titled compound as an oil. 1H-NMR (400 MHz, DMSO-d6) δ 8.428 (dd, 1H); 8.08 (dd 1H); 6.95 (dd, 1H); 3.58 (m, 4H); 3.47 (m, 4H); 1.42 (s, 9H).

reactant | 2-Chloro-nicotinonitrile | 14.7 mmol, 2.04 g | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
reactant | piperazine-1-carboxylic acid tert-butyl ester | 14.7 mmol, 2.74 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | potassium hydrogencarbonate | 17.6 mmol, 1.77 g | C(O)([O-])=O.[K+]
solvent | N,N-dimethylformamide | 45 mL | CN(C=O)C | C3H7NO
product | 4-(3-Cyano-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CC=C1C#N | C15H20N4O2
